data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
687,747,[CH3:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[O+:19][C-:20]([C:21]#[N:22])[C:23]#[N:24].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]#[N:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:16]([C:14]([CH3:13])=[O:15])([C:17]#[N:18])[O:19][C:20]2([C:21]#[N:22])[C:23]#[N:24],water,298.15,15.532622239289966,-35.2767701516222
912,986,[CH3:1][C:2]([CH3:3])=[C:4]([c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1.[NH-:17][N+:18]#[C:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH3:1][C:2]1([CH3:3])[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[C:19]([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)=[N:18][NH:17]1,water,298.15,25.90372167513752,-31.047713072655128
261,285,[CH2-:12][N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[CH2:12][N:13]=[C:14]3[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,9.777991362615063,-70.14085138354153
3413,3883,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][CH-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])=[N:15][CH:16]1[C:17]#[N:18],water,298.15,18.574953519565863,-41.98673336752943
2953,3296,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][CH-:6][N+:7]([CH3:8])=[C:9]([CH3:10])[C:11]#[N:12]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[CH:6]([CH3:5])[N:7]([CH3:8])[C:9]1([CH3:10])[C:11]#[N:12],water,298.15,17.827689432464002,-30.598932968499504
3247,3669,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]#[N+:12][N-:13][C:14]([CH3:15])=[O:16]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:13]([C:14]([CH3:15])=[O:16])[N:12]=[C:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,19.53025660051529,-43.624426830198885
3855,4411,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16]([CH3:17])[c:18](=[O:19])[o:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[NH:15][C:16]1([CH3:17])[C:18](=[O:19])[O:20]2,water,298.15,27.14283159686143,-2.183045095272857
3397,3864,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10]([CH3:11])=[O:12])[N+:13]([CH3:14])=[C:15]([CH3:16])[CH3:17]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10]([CH3:11])=[O:12])[N:13]([CH3:14])[C:15]1([CH3:16])[CH3:17],water,298.15,49.78205949423091,-4.347164865397368
2379,2643,[CH3:15][NH:16][C:17](=[O:18])[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[N+:26]([CH3:27])[CH-:28][c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[CH:28]([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[N:26]([CH3:27])[C:19]3([C:17]([NH:16][CH3:15])=[O:18])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,13.894465950830504,-46.50460415510057
342,372,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[NH+:16]=[CH:17][C:18]([CH3:19])=[O:20].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[CH:17]([C:18]([CH3:19])=[O:20])[NH:16][C:13]3([C:11]([NH:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,11.651557741574145,-37.49063860662539
3160,3565,[CH2-:6][NH+:7]=[C:8]([C:9]#[N:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:8]([C:9]#[N:10])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[NH:7][CH2:6]1,water,298.15,42.769412414282,26.60845202865753
1926,2134,[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2.[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[NH+:17][C-:18]([C:19]#[N:20])[C:21]([CH3:22])=[O:23]>>[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:18]([C:19]#[N:20])([C:21]([CH3:22])=[O:23])[NH:17][C:14]3([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,14.539770500633184,-30.97445631045495
3026,3383,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH:5]#[N+:6][C-:7]([CH3:8])[c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:7]([CH3:8])([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[N:6]=[CH:5]1,water,298.15,19.97904954682754,-41.24899379087567
3257,3680,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[N:7]#[C:8][CH:9]=[O+:10][N-:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:9]([C:8]#[N:7])[O:10][N:11]1[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,13.257427337894327,-45.9006921303014
